US07737166B2
2-Amino-5-bromo-4-fluoro-6-methyl-3-nitrobenzonitrile (I-266)
With cooling with ice, potassium nitrate (2.43 g, 21.8 mmol) was gradually added to a concentrated sulfuric acid (20 ml) solution of 6-amino-3-bromo-4-fluoro-2-methylbenzonitrile (I-265) (5.00 g, 21.8 mmol). After stirring for 10 minutes, the reaction liquid was poured into ice and stirred.

reactant | potassium nitrate | 21.8 mmol, 2.43 g | [N+](=O)([O-])[O-].[K+]
reactant | 6-amino-3-bromo-4-fluoro-2-methylbenzonitrile | 21.8 mmol, 5.00 g | NC1=CC(=C(C(=C1C#N)C)Br)F | C8H6BrFN2
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Amino-5-bromo-4-fluoro-6-methyl-3-nitrobenzonitrile | NC1=C(C#N)C(=C(C(=C1[N+](=O)[O-])F)Br)C | C8H5BrFN3O2
